US06420426B1
A stirring solution of (2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid ethyl ester (0.72 g, 1.62 mmol) in ethanol (8.1 mL, 0.2 M) was placed in an ice bath and treated with aq NaOH (1.25 M, 7.8 mL, 9.73 mmol). The mixture was gradually allowed to warm to room temperature and after two hours the mixture was concentrated under reduced pressure, diluted with ethyl acetate, and treated with 2 N HCl (10 mL). The separated organic layer was washed with saturated aq NaCl. The organic layer was dried over Na2SO4, filtered, and concentrated to afford [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid (0.66 g, 98%) as a white solid: mp 169° C.; Rf 0.22 (20% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 9.00 (bd t, J=5.3 Hz, 1H), 7.76 (d, J 9.6 Hz, 1H), 7.49 (d, J=9.6 Hz, 1H), 7.39-7.33 (m, 2H), 7.04 (dd, J1=11.4 Hz, J2=1.4 Hz, 1H), 4.84 (d, J=1.8 Hz, 2H), 4.48 (bd s, 2H), 2.17 (s, 3H); ESI-LC/MS m/z calcd for C17H14BrF2NO4: 413.0; found 412 (M−1)−. Anal. calcd for C17H14BrF2NO4: C, 49.30; H, 3.41; N, 3.38. Found C, 49.32; H, 3.43; Br, 3.32.

reactant | (2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid ethyl ester | 1.62 mmol, 0.72 g | C(C)OC(COC1=C(C=C(C(=C1)F)C)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C19H18BrF2NO4
reactant | NaOH | 9.73 mmol, 1.25 M, 7.8 mL | [OH-].[Na+]
solvent | ethanol | 0.2 M, 8.1 mL | C(C)O | C2H6O
product | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid | 0.66 g, 98% | BrC1=CC(=C(CNC(=O)C2=C(OCC(=O)O)C=C(C(=C2)C)F)C=C1)F | C17H14BrF2NO4
